US07078570B2
Synthesis of 1,2,6-trimethyl-6-(3-methyl-but-2-enyl)-cyclohex-2-enol
2,6-Dimethyl-6-(3-methyl-but-2-enyl)-cyclohexenone (245 g, 1.28 mol) was added dropwise to a solution of methyl magnesium chloride (105 g, 1.41 mol) in THF (400 ml) and toluene (1.5 L) at room temperature. The temperature rose to 50° C. The mixture was stirred for additional 45 min, was then cooled to 15° C. and poured on ice. The organic phase was separated and washed with water (0.5 L) and brine (0.5 L), dried (MgSO4) and concentrated in vacuo. The residue was distilled over a 70 cm silverplated column (bp. 83-85° C./0.1 Torr) to yield 208 g (78%) product as a mixture of two diastereomers. 1H-NMR (400 MHz, CDCl3): 5.39 (bs, 1H, 3-H), 5.29-5.24 (m, 1H, 2′-H), 2.26-2.05 (m, 2H, 2′-H), 1.98-1.88 (m, 2H, 4-H), 1.75-1.71 (m, 6H, 2-CH3, 3′-CH3), 1.63 (s, 3H, 4′-H), 1.60 (bs, 1H, O—H), 1.50-1.46 (m, 2H, 5-H), 1.24/1.23 (2s, 3H, 1a,b-CH3), 0.96/0.90 (2s, 3H, 6a,b-CH3) ppm. GC/MS (EI), Isomer a: 208 (M+, 1), 190 (20), 175 (17), 147 (56), 121 (100), 105 (46), 98 (52), 83 (45), 43 (82). Isomer b: 208 (M+, 2), 190 (8), 175 (6), 147 (58), 121 (75), 105 (46), 98 (100), 83 (52), 43 (78). IR (ATR): 3476s, 2967vs, 2922vs, 1450s, 1376s, 1073vs, 921m, 902 m cm−1.

reactant | 2,6-Dimethyl-6-(3-methyl-but-2-enyl)-cyclohexenone | 1.28 mol, 245 g | CC=1C(C(CCC1)(CC=C(C)C)C)=O | C13H20O
reactant | methyl magnesium chloride | 1.41 mol, 105 g | C[Mg]Cl
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | toluene | 1.5 L | C1(=CC=CC=C1)C | C7H8
product | 1,2,6-trimethyl-6-(3-methyl-but-2-enyl)-cyclohex-2-enol | 208 g, 78% | CC1(C(=CCCC1(CC=C(C)C)C)C)O | C14H24O
